US07863271B2
A mixture of methyl 2-amino-4-fluoro-3-hydroxybenzoate (1.5 g, 8.11 mmol) and 1,1′-thiocarbonyldiimidazole (1.46 g, 8.2 mmol) in THF (30 mL) was stirred at ambient temperature overnight, and at 50° C. for 6 h. The reaction mixture was cooled to ambient temperature and the solvent was removed under reduced pressure. The residue was washed with ether (3×50 mL) and dried to afford methyl 7-fluoro-2-thioxo-2,3-dihydrobenzoxazole-4-carboxylate (1.3 g, 70%) as a yellow solid. 1H NMR (500 MHz, CDCl3) δ 7.82-7.78 (m, 1H), 6.40 (t, J=9.0 Hz, 1H), 4.00 (s, 3H); (ESI+) m/z 228 (M+H).

reactant | methyl 2-amino-4-fluoro-3-hydroxybenzoate | 8.11 mmol, 1.5 g | NC1=C(C(=O)OC)C=CC(=C1O)F | C8H8FNO3
reactant | 1,1′-thiocarbonyldiimidazole | 8.2 mmol, 1.46 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | methyl 7-fluoro-2-thioxo-2,3-dihydrobenzoxazole-4-carboxylate | 1.3 g, 70% | FC=1C=CC(=C2NC(OC21)=S)C(=O)OC | C9H6FNO3S
